US04886814
N-[2-(4-Carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
0.54 g (0.030 mol) of 2-(2-trifluoromethyl-thiazol-4-yl)ethylene oxide is dissolved in 5 ml of ethanol, and the solution is added dropwise within 10 minutes to a boiling solution of 0.58 g (0.0030 mol) of 2-(4-carbomethoxyphenyl)-1-methylethylamine in 13 ml ethanol. The mixture is then boiled under reflux for 5 hours, the solvent is removed by distillation, and the base is purified on a silica gel column using methylene chloride/methanol=20:1 as eluant.

reactant | 2-(2-trifluoromethyl-thiazol-4-yl)ethylene oxide | 0.030 mol, 0.54 g | FC(C=1SC=C(N1)C1CO1)(F)F | C6H4F3NOS
reactant | 2-(4-carbomethoxyphenyl)-1-methylethylamine | 0.0030 mol, 0.58 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)N | C11H15NO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | N-[2-(4-Carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C17H19F3N2O3S
